US08044068B2
A mixture of 2-amino-4,6-dimethylpyridine (2.0 g), 1-benzylpyrrolidin-3-one (2.9 g), acetic acid (2.9 mL), and chloroform (34 mL) was ice-cooled, followed by addition of sodium triacetoxyborohydride (4.9 g), and the mixture was stirred for 18 h while heating slowly to room temperature. To the reaction mixture was added 1 M aqueous sodium hydroxide to make it basic, and then the mixture was extracted with chloroform. The organic layer was dried with anhydrous magnesium sulfate, then the desiccant was removed by filtration, the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (NH silica gel, hexane/ethyl acetate=65:35) to obtain 1-benzyl-3-(4,6-dimethylpyridin-2-ylamino)pyrrolidine (1.3 g). (2) 1-Benzyl-3-(4,6-dimethylpyridin-2-ylamino)pyrrolidine (1.3 g) was dissolved in methanol (13 mL), followed by addition of 20% Pd(OH)2/C (0.26 g), and the mixture was stirred at room temperature for 20 h under hydrogen atmosphere. The catalyst was removed by Celite filtration, then the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (NH silica gel, chloroform/methanol=19:1) to obtain 3-(4,6-dimethylpyridin-2-ylamino)pyrrolidine (0.10 g). (3) A mixture solution of 3-(4,6-dimethylpyridin-2-ylamino)pyrrolidine (0.73 g), 4-trifluoromethoxyphenylacetic acid (0.12 g), EDC.HCl (0.12 g), HOBt.H2O (0.12 g), and chloroform (1.0 mL) was stirred at room temperature. After completion of the reaction, the reaction mixture was diluted with chloroform and washed with 1 M aqueous sodium hydroxide and brine. The organic layer was dried with anhydrous magnesium sulfate, then the desiccant was removed by filtration, the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (chloroform/methanol=19:1) and then crystallized with hexane and diethyl ether to obtain the title compound (0.14 g).

reactant | 2-amino-4,6-dimethylpyridine | 2.0 g | NC1=NC(=CC(=C1)C)C | C7H10N2
reactant | 1-benzylpyrrolidin-3-one | 2.9 g | C(C1=CC=CC=C1)N1CC(CC1)=O | C11H13NO
reactant | sodium triacetoxyborohydride | 4.9 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | chloroform | 34 mL | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 2.9 mL | C(C)(=O)O | C2H4O2
product | 1-benzyl-3-(4,6-dimethylpyridin-2-ylamino)pyrrolidine | 1.3 g | C(C1=CC=CC=C1)N1CC(CC1)NC1=NC(=CC(=C1)C)C | C18H23N3
